US08486953B2
4-(4-Fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)-N-(2-methoxyethyl)-5-methylthieno[2,3-d]pyrimidine-6-carboxamide
HATU (0.052 g, 0.138 mmol) was added into a mixture of methyl 4-(4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylate (0.050 g, 0.125 mmol) and Hünig's base (22 μL, 0.125 mmol) in DMF (2.0 mL) at 0° C. The reaction mixture was stirred at 0° C. for 0.5 hours. 2-Methoxyethylamine (54.3 μL, 0.625 mmol) was added and the coolant removed. The reaction mixture was stirred at ambient temperature overnight. The product was purified by reverse phase preparative HPLC to yield white solid (0.029 g, 50%)

reactant | HATU | 0.138 mmol, 0.052 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | methyl 4-(4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylate | 0.125 mmol, 0.050 g | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)OC)OC2CCOCC2 | C20H20FN3O4S
reactant | Hünig's base | 0.125 mmol, 22 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-Methoxyethylamine | 0.625 mmol, 54.3 μL | COCCN | C3H9NO
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 4-(4-Fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)-N-(2-methoxyethyl)-5-methylthieno[2,3-d]pyrimidine-6-carboxamide | 0.029 g, 50% | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)NCCOC)OC2CCOCC2 | C22H25FN4O4S
